Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
Admission Labs:
===============
___ 11:19PM BLOOD WBC-16.4* RBC-4.43 Hgb-13.4 Hct-41.1 
MCV-93 MCH-30.2 MCHC-32.6 RDW-18.8* RDWSD-62.4* Plt ___
___ 11:19PM BLOOD Neuts-88.3* Lymphs-3.9* Monos-6.5 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-14.45* AbsLymp-0.63* 
AbsMono-1.06* AbsEos-0.00* AbsBaso-0.06
___ 11:42PM BLOOD ___ PTT-36.6* ___
___ 11:19PM BLOOD Glucose-106* UreaN-18 Creat-0.7 Na-129* 
K-4.2 Cl-94* HCO3-20* AnGap-15
___ 11:19PM BLOOD ALT-17 AST-58* AlkPhos-44 TotBili-2.2* 
DirBili-0.2 IndBili-2.0
___ 12:05PM BLOOD Calcium-8.8 Phos-2.6* Mg-2.0
___ 11:19PM BLOOD Albumin-3.8
___ 11:43PM BLOOD Lactate-1.5

Imaging:
========
CT Chest
1. Bilateral lower lobe consolidations consistent with 
multifocal
pneumonia.
2. No evidence of pulmonary embolism or aortic abnormality.
3. Thoracic spine ankylosis.
Non urgent CT of the chest in three-month is recommended to
follow-up resolution of airspace opacities.

CXR 
Bilateral lower lobe opacities consistent with multifocal
pneumonia.

Discharge Labs:
===============
___ 07:27AM BLOOD WBC-6.9 RBC-3.91 Hgb-11.6 Hct-36.5 MCV-93 
MCH-29.7 MCHC-31.8* RDW-18.0* RDWSD-61.6* Plt ___
___ 07:27AM BLOOD Glucose-78 UreaN-16 Creat-0.6 Na-142 
K-3.8 Cl-105 HCO3-24 AnGap-13
___ 07:27AM BLOOD ALT-27 AST-19 AlkPhos-52 TotBili-0.4
___ 07:27AM BLOOD Calcium-9.1 Phos-3.1 Mg-1.8

Discharge Physical Exam:
========================
VITALS: see Eflowsheets  
GENERAL: Alert and in no apparent distress, frequent coughing
fits
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes dry
CV: Heart regular, no murmur
RESP: Lungs diminished at bilateral bases, no rhonchi or rales 
or
wheezes
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Brief Hospital Course:
___ with history of pericarditis diagnosed in ___ on 
prednisone/colchicine, psoriatic arthritis on methotrexate, who 
presented with sepsis secondary to pneumonia.

ACUTE/ACTIVE PROBLEMS:
# Community Acquired Pneumonia
# Sepsis: Patient presented with fever, leukocytosis, 
tachycardia, ongoing productive cough with CXR and CT evidence 
of multifocal pneumonia. Patient has relative immunosuppression 
on methotrexate and prednisone taper.
She was started on CTX and doxycycline for community acquired 
pneumonia with rapid improvement. Urine Legionella antigen was 
negative. Sputum gram stain was positive for GNRs, with culture 
pending at time of discharge.
Given her immunosuppression, she was discharged on levofloxacin 
500mg daily to complete a 7 day course (day 7 = ___. QTc was 
429 on day of discharge (read as prolonged on initial EKGs but 
this was in the setting of a rate related RBBB - likely 
overestimated given QRS prolongation).
At time of discharge she had been afebrile for nearly 72 hours 
and was breathing well on room air.

# Pericarditis: Recently diagnosed. The most likely etiology is 
drug-induced lupus (pericaditis, pleuritis induced by 
infliximab), ISO POSITIVE,
high titer ___, anti-dsDNA, anti-histone.
Recent cardiac MR was obtained and showed early and late 
gadolinium enhancement in the pericardium consistent with 
pericarditis, but no evidence of constriction.
She underwent TTE this admission which showed no effusion.
Continued colchicine and prednisone. Held furosemide in the 
setting of infection but resumed at discharge.
Decreased prednisone to 10mg at discharge per discussion with 
patient's outpatient rheumatologist.

CHRONIC/STABLE PROBLEMS:
# Psoriatric arthritis: decreased prednisone as above to 10mg 
daily at discharge. She will resume weekly methotrexate and 
folic acid

> 30 minutes spent on discharge coordination and planning

Transitional Issues:
====================
- discharged on levofloxacin with plans for a 7 day course (day 
___ = ___
- prednisone decreased to 10mg daily, patient will follow up 
with her rheumatologist as an outpatient
- sputum culture and Strep pneumo antigen pending at time of 
discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 15 mg PO DAILY 
This is dose #  of  tapered doses
2. Methotrexate 20 mg PO QWED 
3. FoLIC Acid 1 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Colchicine 0.6 mg PO BID 
6. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN rhinitis 
7. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0 
2.  LevoFLOXacin 500 mg PO Q24H Duration: 4 Days 
RX *levofloxacin 500 mg 1 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0 
3.  PredniSONE 10 mg PO DAILY 
This is dose #  of  tapered doses 
4.  Colchicine 0.6 mg PO BID  
5.  Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN rhinitis  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Furosemide 20 mg PO DAILY  
8.  Methotrexate 20 mg PO QWED  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Community Acquired Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in with fever, cough, and shortness of breath. You were 
found to have a pneumonia. You were treated with antibiotics and 
your breathing improved. It will be important to continue the 
antibiotics for four more days after leaving the hospital.

Dr. ___ like you to decrease your 
prednisone dose to 10mg daily. You should follow up with her in 
clinic. You can continue taking the methotrexate as you were 
previously taking it.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___